US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-[3-(benzyloxy)-5-fluorophenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for the preparation of Example 331 and using 5-[3-(benzyloxy)-5-fluorophenyl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and acetyl chloride as starting material, 20 mg (26%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 7.91 (s, 1H), 7.47-7.35 (m, 5H), 6.90 (s, 1H), 6.82 (d, 1H), 6.75 (d, 1H), 6.50 (s, 1H), 5.48 (s, 2H), 5.13 (s, 2H), 4.76-4.71 (m, 1H), 3.97-3.90 (m, 1H), 3.54-3.44 (m, 1H), 3.26 (td, 1H), 2.74 (td, 1H), 2.22-2.15 (m, 2H), 2.09 (s, 3H), 1.72-1.60 (m, 2H); LC-MS m/z[M+H]+ 460.4, RT 3.10 min.

reactant | 5-[3-(benzyloxy)-5-fluorophenyl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C24H24FN5O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 7-(1-acetylpiperidin-4-yl)-5-[3-(benzyloxy)-5-fluorophenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 20 mg, 26% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C2=CC(=CC(=C2)F)OCC2=CC=CC=C2 | C26H26FN5O2
